US07495007B2
Preparation of racemic (2′R,3R,4′S)-6-chloro-4′-[5-chloro-2-(1-hydroxymethyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of LiAlH4 (15 mg, 0.4 mmol) in THF (2 mL) was added racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (RO5247453-000) (60 mg, 0.1 mmol). The mixture was stirred in a ice bath for 1.5 h, quenched with MeOH, purified by Prep-HPLC to give title compound (14 mg, 24%). m/z (M+H)+: 569

reactant | LiAlH4 | 0.4 mmol, 15 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.1 mmol, 60 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)OC)=O)C1=C(C=CC(=C1)F)C)=O | C31H27Cl2FN2O5
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | racemic (2′R,3R,4′S)-6-chloro-4′-[5-chloro-2-(1-hydroxymethyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 14 mg, 24% | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)CO)=O)C1=C(C=CC(=C1)F)C)=O | C30H27Cl2FN2O4
